US08664226B2
The dichloromethane (150 mL) solution of furan-2-carboxylic acid (11.2 g, 100 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride salt (28.8 g, 150 mmol), N,N-dimethylaminopyridine (1.2 g, 10 mmol), and acetoin (9.69 g, 110 mmol) was stirred at room temperature for 5 hrs. The reaction mixture was added water and extracted with chloroform. The organic layer was combined, washed with water and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The resulting residues were subjected to silica gel column chromatography (hexane/ethyl acetate) to obtain 3-oxobutan-2-yl furan-2-carboxylic acid (18.2 g, 100%) as a yellow oil.

reactant | dichloromethane | 150 mL | ClCCl | CH2Cl2
reactant | furan-2-carboxylic acid | 100 mmol, 11.2 g | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride salt | 150 mmol, 28.8 g | Cl.C(C)N=C=NCCCN(C)C
reactant | acetoin | 110 mmol, 9.69 g | OC(C(C)=O)C | C4H8O2
solvent | water | O | H2O
product | 3-oxobutan-2-yl furan-2-carboxylic acid | 18.2 g, 100% | O=C(C(C)C1=C(OC=C1)C(=O)O)C | C9H10O4
